US05112869
A solution of boron tribromide (20 g. 80 mmol) in methylene chloride (20 mL) is added dropwise to a vigorously stirred solution of 4,4-bis(3,4-dimethoxyphenyl)butyrolactone (10.0 g. 27.9 mmol) in methylene chloride (200 mL) at -78° C. Stirring is continued for 3 hours at 78° C., and then at room temperature overnight. Ice (100 g) is added to the mixture, and organic layer is separated. The aqueous layer is extracted with ethyl acetate (3×100 mL). The combined organic solutions are dried over sodium sulfate, and concentrated in vacuo. The residue is chromatographed over a silica gel colum using a mixture of chloroform and ethanol (98:2 v/v) as the eluent to give 1-(3,4-di-hydroxyphenyl)-4,6,7-trihydroxynaphthalene (4.5 g. 53%), mp 224°-226° C. 1H NMR (Me2SO-d6) δ9.6-8.8 (5H, m, OH, exchangeable), 7.4-6.5 (7H, m, aromatic H).

reactant | boron tribromide | 80 mmol, 20 g | B(Br)(Br)Br | BBr3
reactant | 4,4-bis(3,4-dimethoxyphenyl)butyrolactone | 27.9 mmol, 10.0 g | COC=1C=C(C=CC1OC)C1(CCC(=O)O1)C1=CC(=C(C=C1)OC)OC | C20H22O6
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 1-(3,4-di-hydroxyphenyl)-4,6,7-trihydroxynaphthalene | 4.5 g, 53% | OC=1C=C(C=CC1O)C1=CC=C(C2=CC(=C(C=C12)O)O)O | C16H12O5
